US06166006
To 1-benzylphosphorinane-1-oxide (5.39 g) were added nitric acid (1.94 ml) and sulfuric acid (15 ml) at 0° C., and the mixture was stirred at 50-60° C. for 2hours. The reaction mixture was added to crushed ice-water, neutralized with ammonia solution and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethanol/ethyl acetate=1:3→1:2) to give 1-(4-nitrobenzyl)-phosphorinane-1-oxide (2.47 g) as pale yellow crystals.

reactant | 1-benzylphosphorinane-1-oxide | 5.39 g | C(C1=CC=CC=C1)P1(CCCCC1)=O | C12H17OP
reactant | nitric acid | 1.94 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
product | 1-(4-nitrobenzyl)-phosphorinane-1-oxide | 2.47 g | [N+](=O)([O-])C1=CC=C(CP2(CCCCC2)=O)C=C1 | C12H16NO3P
